US04371541
2,3-Dihydro-4-(hydroxyimino)-2-phenyl-4H-1-benzopyran
A mixture of 2,3-dihydro-2-phenyl-4H-1-benzopyran-4-one (50.0 g), methanol (535 ml), water (50 ml), potassium carbonate (59.3 g), and hydroxylamine HCl (59.8 g) was heated at reflux for 16 hours, then poured into ice-water; the oxime of 2,3-dihydro-2-phenyl-4H-1-benzopyran-4-one was filtered off, washed with water, then dried in air. Yield: 52 g.

reactant | 2,3-dihydro-2-phenyl-4H-1-benzopyran-4-one | 50.0 g | C1(=CC=CC=C1)C1OC2=C(C(C1)=O)C=CC=C2 | C15H12O2
reactant | methanol | 535 ml | CO | CH4O
reactant | potassium carbonate | 59.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine HCl | 59.8 g | Cl.NO
solvent | water | 50 ml | O | H2O
product | 2,3-Dihydro-4-(hydroxyimino)-2-phenyl-4H-1-benzopyran | ON=C1CC(OC2=C1C=CC=C2)C2=CC=CC=C2 | C15H13NO2
